US07378427B2
(S)-5-(4-Methoxy-benzenesulfonyl)-6-methyl-5,6-dihydrophenanthridine
N-[(R)-2′-(1-Hydroxy-ethyl)-biphenyl-2-yl]-4-methoxy-benzenesulfonamide (0.04 g, 0.10 mmol) was dissolved in tetrahydrofuran (10 mL) and cooled to 0° C. Di-tert-butylazodicarboxylate (0.05 g, 0.21 mmol) and triphenylphosphine (0.06 g, 0.21 mmol) were added. After four hours, additional di-tert-butylazodicarboxylate (0.05 g, 0.21 mmol) and triphenylphosphine (0.06 g, 0.21 mmol) were added. The mixture was warmed to room temperature and stirred for 36 hours. Trifluoroacetic acid (2.5 mnL) was added and the mixture was stirred for two hours. A solution of saturated, aqueous sodium bicarbonate was added (100 niL) and the resulting mixture was extracted with diethyl ether (5×20 mL). The combined organic extracts were dried over anhydrous magnesium sulfate, filtered, and concentrated in vacuo to yield an oil. The resulting oil solidified upon standing. The title compound was evaluated by chiral stationary phase HPLC (Chiralpak AD-25×0.46 cm column) on a Rainin Auto-Prep System using 90:10 hexane:isopropanol as the eluding solvent with a 0.8 mL/min flow rate. HPLC analysis showed the product to be a 95:5 mixture of enantiorners where the S enantiomer was the major product.

reactant | N-[(R)-2′-(1-Hydroxy-ethyl)-biphenyl-2-yl]-4-methoxy-benzenesulfonamide | 0.10 mmol, 0.04 g | O[C@H](C)C1=C(C=CC=C1)C1=C(C=CC=C1)NS(=O)(=O)C1=CC=C(C=C1)OC | C21H21NO4S
reactant | Di-tert-butylazodicarboxylate | 0.21 mmol, 0.05 g | CC(C)(C)OC(=O)/N=N/C(=O)OC(C)(C)C | C10H18N2O4
reactant | triphenylphosphine | 0.21 mmol, 0.06 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | di-tert-butylazodicarboxylate | 0.21 mmol, 0.05 g | CC(C)(C)OC(=O)/N=N/C(=O)OC(C)(C)C | C10H18N2O4
reactant | triphenylphosphine | 0.21 mmol, 0.06 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | (S)-5-(4-Methoxy-benzenesulfonyl)-6-methyl-5,6-dihydrophenanthridine | COC1=CC=C(C=C1)S(=O)(=O)N1C=2C=CC=CC2C2=CC=CC=C2[C@@H]1C | C21H19NO3S
